US04212830
67 gms of oleyl alcohol was dissolved in 75 mls of benzene, 0.15 ml of pyridine were added. The solution was cooled to 0° C. and 46 gms of thionyl chloride was added over 5 minutes with stirring. The solution was heated to reflux temperature for 10 minutes until all sulphur dioxide evolution ceased. It was cooled and extracted with 150 ml of 10% saline solution then with 50 ml of 10% sodium carbonate solution and finally with 100 ml of 10% saline solution. The organic layer was dried over sodium sulphate, evaporated and distilled. The product distilled at 166°-169° C., at 3 torr and yielded 58 gms of oleyl chloride.

reactant | oleyl alcohol | 67 gms | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 46 gms | S(=O)(Cl)Cl | Cl2OS
reactant | sulphur dioxide | S(=O)=O | O2S
solvent | benzene | 75 mls | C1=CC=CC=C1 | C6H6
product | oleyl chloride | 58 gms | C(CCCCCCC\C=C/CCCCCCCC)Cl | C18H35Cl
